US04767755
1.1. 2-(4-Methylphenyl)-6-trifluoromethylimidazo[1,2-a]-pyridine
10 g (0.0616 mole) of 2-amino-5-trifluoromethylpyridine and 17.5 g (0.0616 mole) of 1-bromo-2-(4-methylphenyl)-2-ethanone are mixed in 200 ml of n-propanol and the solution is heated to reflux. At the end of the reaction, the reaction mixture is concentrated under reduced pressure and the evaporation residue taken up with water and treated with an excess of ammonia solution until the pH is basic. The imidazopyridine is extracted with dichloromethane and purified by chromatography. 11.95 g (56%) of white solid are obtained. M.p. 187°-188° C.

reactant | 2-amino-5-trifluoromethylpyridine | 0.0616 mole, 10 g | NC1=NC=C(C=C1)C(F)(F)F | C6H5F3N2
reactant | 1-bromo-2-(4-methylphenyl)-2-ethanone | 0.0616 mole, 17.5 g | BrCC(=O)C1=CC=C(C=C1)C | C9H9BrO
solvent | n-propanol | 200 ml | C(CC)O | C3H8O
product | 2-(4-Methylphenyl)-6-trifluoromethylimidazo[1,2-a]-pyridine | 11.95 g, 56% | CC1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)C(F)(F)F)C1 | C15H11F3N2
